US06252072B1
Preparation of 1-(2-chlorothiazol-5-ylmethyl)-2-nitro-3-methyl-guanidine:
A mixture of 1.5 g of 1-(2-chlorothiazol-5-ylmethyl)-2-nitroimino-3,5-dimethyl-1,3,5-triaza-cyclohexane, 0.3 g of NaHCO3, 20 ml of methanol and 20 ml of water is stirred for 16 hours at 50° C. The reaction mixture is poured onto 100 ml of ethyl acetate and the aqueous phase separated. The organic phase is concentrated by evaporation and the residue purified on silica gel with dichloromethane/methanol 95:5 as the eluant. This yields the title compound with a melting point of 167-169° C. (compound 2.45).

reactant | 1-(2-chlorothiazol-5-ylmethyl)-2-nitroimino-3,5-dimethyl-1,3,5-triaza-cyclohexane | 1.5 g | ClC=1SC(=CN1)CN1C(N(CN(C1)C)C)=N[N+](=O)[O-] | C9H13ClN6O2S
reactant | NaHCO3 | 0.3 g | C(=O)(O)[O-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
reactant | water | 20 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-chlorothiazol-5-ylmethyl)-2-nitro-3-methyl-guanidine | ClC=1SC(=CN1)CNC(=N[N+](=O)[O-])NC | C6H8ClN5O2S
